US08420816B2
(R)-1-(2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoyl)piperidine-4-carbonitrile
To an 8 mL scintillation vial equipped for stirring was added (R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid (10 mg, 0.032 mmol). THF (0.5 mL), piperidine-4-carbonitrile (3.58 mg, 0.032 mmol) and HATU (14.83 mg, 0.039 mmol) were added and the solution was stirred at 25° C. for 1 h. The reaction mixture was purified via preparative mass trigger LC-MS (AcCN/H2O, 5-50%). The fractions were collected, concentrated, and dried in vacuo to afford the title compound as a yellow oil (3.3 mg, 25.4%). 1H NMR (400 MHz, CD3OD) δ 0.84-0.93 (m, 3 H) 0.96-1.08 (m, 3 H) 1.42-1.60 (m, 1 H) 1.72-1.82 (m, 2 H) 1.82-2.00 (m, 1 H) 2.49-2.66 (m, 1 H) 2.92-3.07 (m, 1 H) 3.49-3.73 (m, 2 H) 3.78-4.00 (m, 1 H) 4.00-4.11 (m, 1 H) 4.90 (d, J=7.58 Hz, 1 H) 4.92-5.01 (m, 1 H) 5.53 (dd, J=10.86, 3.54 Hz, 1 H) 7.82-7.92 (m, 1 H) 8.15-8.30 (m, 1 H). [M+H] calc'd for C20H22ClN5O2, 400; found, 400.4.

reactant | (R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoic acid | 0.032 mmol, 10 mg | ClC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)O)C(C)C)=O)=CN2 | C14H14ClN3O3
reactant | piperidine-4-carbonitrile | 0.032 mmol, 3.58 mg | N1CCC(CC1)C#N | C6H10N2
reactant | HATU | 0.039 mmol, 14.83 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (R)-1-(2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoyl)piperidine-4-carbonitrile | 3.3 mg, 25.4% | ClC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)N1CCC(CC1)C#N)C(C)C)=O)=CN2 | C20H22ClN5O2
